US07326791B2
(c) rac.-1-(5-chlorobenzimidazol-2-yl)ethylamine
5.00 g (contaminated) of rac.-N-benzyloxycarbonyl-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine is dissolved in a mixture of 100 mL of methanol and 40 mL methylene chloride, combined with 1.0 g palladium on charcoal, and hydrogenated for 1 hour at 3.4 bar hydrogen pressure. The solvents are distilled off and the crude product is purified by chromatography with silica gel (eluent: methylene chloride/ethanol=95:5+0.2% ammonia). Yield: 1.08 g (25% over 3 steps); Rf value: 0.37 (silica gel; dichloromethane/ethanol=4:1+2% ammonia); C9H10ClN3 (195.65); mass spectrum: (M+H)+=196/198 (chlorine isotope).

reactant | rac.-N-benzyloxycarbonyl-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | 5.00 g | C(C1=CC=CC=C1)OC(=O)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C17H16ClN3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
product | rac.-1-(5-chlorobenzimidazol-2-yl)ethylamine | ClC1=CC2=C(N=C(N2)C(C)N)C=C1 | C9H10ClN3
